US06414148B1
Diethyl azodicarboxylate (567 μl, 3.6 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (383 mg, 1.2 mmol), (prepared as described for the starting material in Example 2), 4-(3-hydroxypropyl)-3,5-dioxomorpholine (291 mg, 1.68 mmol) and triphenylphosphine (944 mg, 3.6 mmol) in methylene chloride (10 ml) under nitrogen. The mixture was sired at ambient temperature for 6 hours and the insolubles were removed by filtration. The filtrate was purified by pouring it directly on to a column of silica and eluting with methylene chloride/acetonitrile/methanol (60/34/6 followed by 60/24/16 and 60/16/24). The semi-purified product was repurified by column chromatography eluting with methylene chloride/acetonitrile/methanol (5/4/1). The purified product was dissolved in methylene chloride/methanol 2M ethereal hydrogen chloride (1 ml) was added and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-7-(3-(3,5-dioxomorpholino)propoxy)-6-methoxyquinazoline hydrochloride (56 mg, 10%).

reactant | Diethyl azodicarboxylate | 3.6 mmol, 567 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.2 mmol, 383 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 4-(3-hydroxypropyl)-3,5-dioxomorpholine | 1.68 mmol, 291 mg | OCCCN1C(COCC1=O)=O | C7H11NO4
reactant | triphenylphosphine | 3.6 mmol, 944 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-7-(3-(3,5-dioxomorpholino)propoxy)-6-methoxyquinazoline hydrochloride | 56 mg, 10% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2C(COCC2=O)=O)C=C1)F | InChI=1S/C22H20ClFN4O5.ClH/c1-31-18-8-14-17(25-12-26-22(14)27-16-4-3-13(23)7-15(16)24)9-19(18)33-6-2-5-28-20(29)10-32-11-21(28)30;/h3-4,7-9,12H,2,5-6,10-11H2,1H3,(H,25,26,27);1H
